US08957068B2
To a round bottom flask containing (R)—N—((S)-1-(2,3-difluorophenyl)ethyl)-2-methylpropane-2-sulfinamide (786.8 mg, 3.01 mmol) was added Dioxane (10.000 mL). To this solution was added HCl in dioxane 4.0M (1.505 mL, 6.02 mmol) and the solution was allowed to stir 15 min at room temperature. The reaction mixture was concentrated, dissolved in Et2O 10 ml, and concentrated again. Et2O was again added and resulting mixture sonnicated and a solid material was filtered and dried to afford (S)-1-(2,3-difluorophenyl)ethanamine (0.4213 g, 2.176 mmol, 72.3% yield) as a white crystalline HCl salt. 1H NMR (400 MHz, D20) d ppm 1.55 (d, J=6.99 Hz, 3H) 4.71 (q, J=6.96 Hz, 1H) 7.10-7.26 (m, 3H); LCMS m/z 158.0 (M+H)+, Rt 0.37 min.

reactant | (R)—N—((S)-1-(2,3-difluorophenyl)ethyl)-2-methylpropane-2-sulfinamide | 3.01 mmol, 786.8 mg | FC1=C(C=CC=C1F)[C@H](C)N[S@](=O)C(C)(C)C | C12H17F2NOS
reactant | HCl | Cl | ClH
solvent | Dioxane | 10.000 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 6.02 mmol, 4.0M, 1.505 mL | O1CCOCC1 | C4H8O2
product | (S)-1-(2,3-difluorophenyl)ethanamine | 2.176 mmol, 0.4213 g, 72.3% yield | FC1=C(C=CC=C1F)[C@H](C)N | C8H9F2N
